US05043345
5.14 A. 3-(4-cyclopropylmethoxy-1,2,5-thiadiazol-3-yl) pyridine
To a solution of cyclopropylcarbinol (360 mg, 5 mmol) and sodiumhydride (110 mg, 5 mmol) in dry tetrahydrofuran was added a solution of 3-(4-chloro-1,2,5-thiadiazol-3-yl)-pyridine (490 mg, 2.5 mmol) in dry tetrahydrofuran. The reaction mixture was stirred at room temperature for 3 h. Water was added and the mixture was extracted with ether. The ether phase was dried and evaporated to yield 400 mg (69%) of the title compound.

reactant | cyclopropylcarbinol | 5 mmol, 360 mg | C1(CC1)CO | C4H8O
reactant | sodiumhydride | 5 mmol, 110 mg | [H-].[Na+]
reactant | 3-(4-chloro-1,2,5-thiadiazol-3-yl)-pyridine | 2.5 mmol, 490 mg | ClC=1C(=NSN1)C=1C=NC=CC1 | C7H4ClN3S
reactant | Water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-(4-cyclopropylmethoxy-1,2,5-thiadiazol-3-yl) pyridine | 400 mg, 69% | C1(CC1)COC=1C(=NSN1)C=1C=NC=CC1 | C11H11N3OS
